US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{4-[(3-methoxypiperidin-1-yl)methyl]benzyl}-N-methyl-1,3,4-oxadiazole-2-carboxamide
The title compound was prepared according to general procedure AT using methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate (30 mg, 0.08 mmol), 1-{4-[(3-methoxypiperidin-1-yl)methyl]phenyl}-N-methylmethanamine (40 mg, 0.16 mmol) and trimethylaluminium (2 M in toluene, 0.08 mL) in DCE (5 mL). The crude product was purified using FCC, eluting with 95:4.5:0.5 DCM:MeOH:NH3. A portion of the fraction collected was further purified using prep method D to afford the title compound.

reactant | methyl 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazole-2-carboxylate | 0.08 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)OC)C | C15H19N3O6S
reactant | 1-{4-[(3-methoxypiperidin-1-yl)methyl]phenyl}-N-methylmethanamine | 0.16 mmol, 40 mg | COC1CN(CCC1)CC1=CC=C(C=C1)CNC | C15H24N2O
reactant | trimethylaluminium | 2 M, 0.08 mL | C[Al](C)C
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{4-[(3-methoxypiperidin-1-yl)methyl]benzyl}-N-methyl-1,3,4-oxadiazole-2-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)N(C)CC1=CC=C(C=C1)CN1CC(CCC1)OC)C | C29H39N5O6S
